US07338959B2
3-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of example one with N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (103 mg, 0.25 mmol) and 3-amino-benzenesulfonamide (43 mg, 0.25 mmol) as a white solid (68 mg, 470%). 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.89 (br s, 1H), 8.49 (s, 1H), 7.86 (d, J=6.3 Hz, 1H), 7.73 (m, 1H), 7.18-7.74 (m, 10H), 5.73 (d, J=6.3 Hz, 1H), 4.71 (d, J=5.7 Hz, 2H), 3.69 (s, 3H), 3.47 (s, 3H). MS (ESI) m/z=549 [M+H]+.

reactant | N2-(4-Chloro-benzyl)-N5-(2-chloro-pyrimidin-4-yl)-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 103 mg | ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C)C3=NC(=NC=C3)Cl)C=C1 | C20H18Cl2N6
reactant | 3-amino-benzenesulfonamide | 0.25 mmol, 43 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 3-(4-{[2-(4-Chloro-benzylamino)-1-methyl-1H-benzoimidazol-5-yl]-methyl-amino}-pyrimidin-2-ylamino)-benzenesulfonamide hydrochloride | Cl.ClC1=CC=C(CNC2=NC3=C(N2C)C=CC(=C3)N(C3=NC(=NC=C3)NC=3C=C(C=CC3)S(=O)(=O)N)C)C=C1 | InChI=1S/C26H25ClN8O2S.ClH/c1-34(24-12-13-29-25(33-24)31-19-4-3-5-21(14-19)38(28,36)37)20-10-11-23-22(15-20)32-26(35(23)2)30-16-17-6-8-18(27)9-7-17;/h3-15H,16H2,1-2H3,(H,30,32)(H2,28,36,37)(H,29,31,33);1H
